US06015868
Preparation of (2,3-dimethylindenyl)(1-adamantylamino)dimethylsilane
(1-adamantylamino)chlorodimethylsilane (5.48 g, 0.0225 moles) was stirred in THF (100 mL) as lithium 2.3-dimethylindenide (3.40 g, 0.0225 moles) in THF (25 mL) was added dropwise. This mixture was allowed to stir for 8 hours. After the reaction period the volatiles were removed and the residue extracted and filtered using hexane. Removal of the hexane resulted in the isolation of the desired product as a solid. (7.69 g, 97.0 percent).

reactant | (1-adamantylamino)chlorodimethylsilane | 0.0225 moles, 5.48 g | C12(CC3CC(CC(C1)C3)C2)N[Si](C)(C)Cl | C12H22ClNSi
reactant | lithium 2.3-dimethylindenide | 0.0225 moles, 3.40 g | CC=1[CH-]C2=CC=CC=C2C1C.[Li+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (2,3-dimethylindenyl)(1-adamantylamino)dimethylsilane | CC=1C(C2=CC=CC=C2C1C)[Si](C)(C)NC12CC3CC(CC(C1)C3)C2 | C23H33NSi
